US04981963
Preparation of N,N'-bis(n-butyl)oxamide
The temperature is brought to 5° C. with an ice-bath and a solution of n-butyl-amine (25 ml, 0.253 mol) in anhydrous methyl alcohol (25 ml) is dripped in. The reaction is exothermic and dripping is adjusted to keep the temperature below 10°-12° C. When all the methyl alcohol solution of the amine has been added, the reaction mixture has a jelly appearance.

reactant | n-butyl-amine | 0.253 mol, 25 ml | C(CCC)N | C4H11N
reactant | methyl alcohol | 25 ml | CO | CH4O
product | N,N'-bis(n-butyl)oxamide | C(CCC)NC(=O)C(=O)NCCCC | C10H20N2O2
